US04078076
A solution of 32.4 g of 4-(phenyl)-tetrahydropyran [Ber., Vol. 56 (1923), p. 2013] in 60 ml of acetic acid was added at -10 to -12° C over an hour to a solution of 120 ml of concentrated nitric acid and 50 ml of acetic acid and the mixture was stirred for 30 minutes at -10° C. 100 ml of ice and 100 ml of water were added to the mixture and the mixture was filtered. The recovered precipitate was washed with water and dried to obtain 35 g of 4-(p-nitrophenyl)-tetrahydropyran melting at 124° C.

reactant | 4-(phenyl)-tetrahydropyran | 32.4 g | C1(=CC=CC=C1)C1CCOCC1 | C11H14O
reactant | nitric acid | 120 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | 100 ml | O | H2O
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 4-(p-nitrophenyl)-tetrahydropyran | 35 g | [N+](=O)([O-])C1=CC=C(C=C1)C1CCOCC1 | C11H13NO3
